US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide
Beginning with 9.0 mg (0.029 mMol) N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 6.5 mg (0.058 mMol) of 3-furoic acid, 0.9 mg (9.6%) of the title compound were produced.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | 3-furoic acid | 0.058 mMol, 6.5 mg | O1C=C(C=C1)C(=O)O | C5H4O3
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-3-furamide | 0.9 mg, 9.6% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3=COC=C3)CC1)C | C19H20N2O3
